US06184225B2
A mixture of 4-(5-benzyloxy-2-fluoro4-methylanilino)-7-hydroxy-6-methoxyquinazoline (440 mg, 1 mmol), 2-bromoethanol (77 ml, 1 mmol) and potassium carbonate (150 mg, 1.1 mmol) in DMF (5 ml) was heated at 50° C. for 1 hour, further 2-bromoethanol (42 ml, 0.6 mmol) and potassium carbonate (150 mg, 1.1 mmol) was added and the mixture was maintained at 50° C. for 2 hours. The reaction mixture was diluted with water, neutralised with 2M hydrochloric acid and extracted with ethyl acetate. The extracts were dried (MgSO4), the solvent removed by evaporation and the residue triturated with ether and hexane to give 4-(5-benzyloxy-2-fluoro-4-methylanilino)-7-(2-hydroxyethoxy)-6-methoxyquinazoline (200 mg, 41%).

reactant | 4-(5-benzyloxy-2-fluoro4-methylanilino)-7-hydroxy-6-methoxyquinazoline | 1 mmol, 440 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C1)F)C | C23H20FN3O3
reactant | 2-bromoethanol | 1 mmol, 77 ml | BrCCO | C2H5BrO
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 0.6 mmol, 42 ml | BrCCO | C2H5BrO
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(5-benzyloxy-2-fluoro-4-methylanilino)-7-(2-hydroxyethoxy)-6-methoxyquinazoline | 200 mg, 41% | C(C1=CC=CC=C1)OC=1C(=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCO)C1)F)C | C25H24FN3O4
